US04025625
Preparation of 2,3-dihydro-8H-imidazo[2,1-c][1,4]thiazine
Employing the procedure of Example 1, Step D, but substituting for the 3-ethylthio-2H-[1,4]thiazine, used therein, an equimolar amount of 3-ethylthio-5-methyl-2H-[1,4]-thiazine, 2-methylthio-4,5-dihydro-6H-[1,3]thiazine, or 2-methylthio-6H-[1,3]thiazine, there is produced respectively, 2,3-dihydro-5-methyl-8H-imidazo[2,1-c][1,4]thiazine fumarate; 2,3,5,6-tetrahydro-7H-imidazo[2,1-b][1,3]thiazine fumarate; or 2,3-dihydro-7H-imidazo[2,1-b][1,3]thiazine fumarate.

reactant | 2,3-dihydro-5-methyl-8H-imidazo[2,1-c][1,4]thiazine fumarate | C(\C=C\C(=O)O)(=O)O.CC=1N2C(CSC1)=NCC2
reactant | 2,3,5,6-tetrahydro-7H-imidazo[2,1-b][1,3]thiazine fumarate | C(\C=C\C(=O)O)(=O)O.N=1CCN2C1SCCC2
reactant | 2,3-dihydro-7H-imidazo[2,1-b][1,3]thiazine fumarate | C(\C=C\C(=O)O)(=O)O.N=1CCN2C1SCC=C2
product | 2,3-dihydro-8H-imidazo[2,1-c][1,4]thiazine | N=1CCN2C1CSC=C2 | C6H8N2S
